US09023846B2
STEP A: 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester
Ethyl 5,5-dimethyl-2,4-dioxo-hexanoate (1.02 g, 5.09 mmol) was dissolved in absolute EtOH (20 mL). CH3NHNH2 (0.270 mL, 5.09 mmol) was added dropwise and the resulting mixture was stirred at room temperature for 2 h. The resulting mixture was warmed to 80° C. for 4 h, and then cooled to room temperature. The solvent was removed under reduced pressure, and the resulting residue was chromatographed using a 70-g pre-packed SiO2 column eluting with 1:19 EtOAc-hexanes to yield the title compound as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ: 6.68 (s, 1H), 4.33 (q, J=7.2 Hz, 2H), 4.12 (s, 3H), 1.38 (t, J=7.1 Hz, 3H), 1.30 (s, 9H).

reactant | Ethyl 5,5-dimethyl-2,4-dioxo-hexanoate | 5.09 mmol, 1.02 g | CC(C(CC(C(=O)OCC)=O)=O)(C)C | C10H16O4
reactant | CH3NHNH2 | 5.09 mmol, 0.270 mL | CNN | CH6N2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C(C)(C)C)C | C11H18N2O2
